US08124825B2
Deionized water (500 parts) was added to H mordenite (15 parts) made by Tosoh Corporation, silica (270 parts), and alumina sol (21 parts) containing 70 weight percent alumina as a binder, and the mixture was thoroughly stirred at room temperature. After shaping of the slurry with an extruder, the shaped article was dried at 110° C. and then calcined at 350° C. for 3 hours to prepare a catalyst. After this catalyst was packed into a cylindrical stainless-steel cyclization reactor, 5-(p-tolyl)-2-pentene prepared by the preceding step was fed at a rate of 10 parts/hr while nitrogen was fed at a rate of 250 parts/min to complete a cyclization reaction at a temperature of 170° C. under normal pressure. The molar ratio of the diluent solvent to the raw material was 11. After the cyclization reaction, the reaction solution was fed to a cylindrical stainless-steel dehydrogenation reactor filled with 40 parts of 1%-platinum/activated charcoal catalyst (made by N.E. CHEMCAT). The reaction temperature was 280° C. During the dehydrogenation reaction, n-heptane as the diluent solvent was also fed at a rate of 20 parts/hr. After the reaction, the solution was fed to a glass distillation column under a reduced pressure of 19 kPa to recover n-heptane. The residual reaction solution after the removal of n-heptane was fed to a glass distillation column under a reduced pressure of 13 kPa to separate low-boiling-point components at a rate of 0.05 parts/hr and high-boiling-point components at a rate of 0.3 parts/hr and to isolate 9.4 parts of 1,7-DMN with a purity of 98% from a middle plate of the distillation column.

reactant | water | O | H2O
reactant | 5-(p-tolyl)-2-pentene | C1(=CC=C(C=C1)CCC=CC)C | C12H16
catalyst | platinum | [Pt] | Pt
solvent | n-heptane | CCCCCCC | C7H16
product | 1,7-DMN | CC1=CC2=C(C=CC=C2C)C=C1 | C12H12
